US07166598B2
Methanesulfonyl chloride (0.115 ml) was added to an ice-cooled solution of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-[3-(tert-butyldimethylsilyloxy)-4-(1-hydroxy-1-methylethyl)benzyl]-4-[2-[(2S)-2-(methoxymethyl)morpholino]-ethyl]piperazine (0.76 g) and triethylamine (0.35 ml) in dichloromethane (9 ml). After being stirred at the same temperature for 2 hours, the mixture was washed with water. The organic layer was separated, washed with brine, dried over magnesium sulfate and evaporated under reduced pressure to give a mixture of the mesylated and unmesylated compound. The mixture was dissolved into methanol without further purification and the solution was hydrogenated over 20% palladium hydroxide-charcoal (0.1 g) at room temperature at 3 atmosphere for 5 hours. The reaction mixture was filtered through Celite® and washed with methanol. The filtrate and washing were combined and evaporated under reduced pressure. The resulting syrup was dissolved in tetrahydrofuran (6.5 ml) and thereto tetrabutylammonium fluoride (1M solution of tetrahydrofuran, 0.1 ml) was added below 10° C. After stirring at room temperature, the mixture was evaporated under reduced pressure and the residue was purified by column chromatography using a mixed solvent of dichloromethane and methanol (40:1) to give an oil. The oil was treated with 4N hydrogen chloride in ethyl acetate to give a powder of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-[3-hydroxy-4-(1-methylethyl)benzyl]-4-[2-[(2S)-2-(methoxymethyl)morpholino]-ethyl]piperazine dihydrochloride (150 mg).

reactant | Methanesulfonyl chloride | 0.115 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-[3-(tert-butyldimethylsilyloxy)-4-(1-hydroxy-1-methylethyl)benzyl]-4-[2-[(2S)-2-(methoxymethyl)morpholino]-ethyl]piperazine | 0.76 g | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CCN2C[C@H](OCC2)COC)CC2=CC(=C(C=C2)C(C)(C)O)O[Si](C)(C)C(C)(C)C)C=C(C1)C(F)(F)F)(F)F | C37H53F6N3O5Si
reactant | triethylamine | 0.35 ml | C(C)N(CC)CC | C6H15N
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | dichloromethane | 9 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium hydroxide-charcoal | 0.1 g | [OH-].[OH-].[Pd+2]
solvent | methanol | CO | CH4O
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-[3-hydroxy-4-(1-methylethyl)benzyl]-4-[2-[(2S)-2-(methoxymethyl)morpholino]-ethyl]piperazine dihydrochloride | 150 mg | Cl.Cl.FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CCN2C[C@H](OCC2)COC)CC2=CC(=C(C=C2)C(C)C)O)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C31H39F6N3O4.2ClH/c1-20(2)27-5-4-21(13-28(27)41)12-25-17-38(6-7-39-10-11-44-26(18-39)19-43-3)8-9-40(25)29(42)22-14-23(30(32,33)34)16-24(15-22)31(35,36)37;;/h4-5,13-16,20,25-26,41H,6-12,17-19H2,1-3H3;2*1H/t25-,26+;;/m1../s1
